US05629254
Synthesis of 3-(bromophenyl)-2-n-propylpropionyl chloride
A 500-ml three-necked round flask equipped with a stirring bar, a Dimroth condenser, a thermometer and a NaOH trap was charged with 277 mmol of 3-(2-bromophenyl)-2-propylpropionic acid and 200 ml of thionyl chloride, and the mixture was heated under reflux for 2 hours. Then, the excess thionyl chloride was removed by a single distillation, and the distillation of the residue under reduced pressure gave 77.4 g of a crude product having a boiling point of 130° to 135° C./1 mmHg as a pale brown transparent liquid. This acid chloride was used in the next reaction without further purification.

reactant | 3-(2-bromophenyl)-2-propylpropionic acid | 277 mmol | BrC1=C(C=CC=C1)CC(C(=O)O)CCC | C12H15BrO2
reactant | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(bromophenyl)-2-n-propylpropionyl chloride | 77.4 g | BrC1=C(C=CC=C1)CC(C(=O)Cl)CCC | C12H14BrClO
